US05124335
Step 2: 2-propyl-1-[(2'-carboxy-[1,1']-biphenyl-4-yl)methyl]-1H-pyrrolo[2,3-b]pyridine
To neat 2-propyl-1-[(2'-(t-butoxycarbonyl)-[1,1']-biphenyl-4-yl)methyl]-1H-pyrrolo[2,3-b]pyridine is added trifluoroacetic acid (1 mL/10 mg of starting material) at room temperature. After 8 h the product is isolated by first concentration at room temperature then partitioning between EtOAc and 5% aqueous NaHCO3 then concentration of the organic layer and ultimately purified by flash chromatography (80:20:1 CH2Cl2 -MeOH--NH4OH).

reactant | 2-propyl-1-[(2'-(t-butoxycarbonyl)-[1,1']-biphenyl-4-yl)methyl]-1H-pyrrolo[2,3-b]pyridine | C(CC)C1=CC=2C(=NC=CC2)N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C(=O)OC(C)(C)C | C28H30N2O2
reactant | trifluoroacetic acid | 1 mL, 10 mg | FC(C(=O)O)(F)F | C2HF3O2
product | 2-propyl-1-[(2'-carboxy-[1,1']-biphenyl-4-yl)methyl]-1H-pyrrolo[2,3-b]pyridine | C(CC)C1=CC=2C(=NC=CC2)N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C(=O)O | C24H22N2O2
